US07208489B2
4-{6-[8-Cyclopentyl-6-(1-ethoxy-vinyl)-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino]-pyridin-3-yl}-2,2-dimethyl-piperazine-1-carboxylic acid tert-butyl ester (0.250 g, 0.414 mmol) was dissolved in dichloromethane (3 mL) to which 2 N HCl in diethyl ether (3 mL) was added and the mixture was stirred at room temperature for 16 hours. The solvent was evaporated and the solid was dried in a vacuum oven for 24 hours at 50° C. to give 6-acetyl-8-cyclopentyl-2-[5-(3,5-dimethyl-piperazin-1-yl)-pyridin-2-ylamino]-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride salt as a yellow solid (0.120 g, 38.1%). 1H NMR δ (400 MHz, DMSO-d6) 9.51 (m, 2H), 9.0 (m, 1H), 8.97 (s, 1H), 8.08 (d, J=2.7 Hz, 1H), 7.84 (dd, J=9.3 Hz, 1H), 7.78 (m, 1H), 5.80 (m, 1H), 3.35 (d, J=11.5 Hz, 2H), 3.35 (m, 2H, 2.75 (dd, J=12.2, 2H), 2.40 (s, 3H), 2.30 (s, 3H), 2.19 (m, 2H), 1.88 (m, 2H), 1.76 (m, 2H), 1.57 (m, 2H), 1.29 (d, J=6.6 Hz, 6H). MS (APCI); M++1: Calc'd, 476.3, Found 476.1. Anal. Calc'd for C26H33N7O2 2.70 HCl, 0.10 H2O: C, 54.23, H, 6.28, N, 17.03. Found: C, 54.60; H, 6.68; N, 16.57.

reactant | 4-{6-[8-Cyclopentyl-6-(1-ethoxy-vinyl)-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino]-pyridin-3-yl}-2,2-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 0.414 mmol, 0.250 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2C)C(=C)OCC)=O)C2CCCC2)(C)C | C33H45N7O4
reactant | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | HCl | 2 N | Cl | ClH
solvent | diethyl ether | 3 mL | C(C)OCC | C4H10O
product | 6-acetyl-8-cyclopentyl-2-[5-(3,5-dimethyl-piperazin-1-yl)-pyridin-2-ylamino]-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride salt | 0.120 g, 38.1% | Cl.C(C)(=O)C1=C(C2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CC(NC(C2)C)C)N(C1=O)C1CCCC1)C | InChI=1S/C26H33N7O2.ClH/c1-15-13-32(14-16(2)29-15)20-9-10-22(27-11-20)30-26-28-12-21-17(3)23(18(4)34)25(35)33(24(21)31-26)19-7-5-6-8-19;/h9-12,15-16,19,29H,5-8,13-14H2,1-4H3,(H,27,28,30,31);1H
